### ISSUE TITLE
Grind fails without pulling annotated theorem into hypothesis

### ISSUE THREAD

**Issue by ldct** [leanprover/lean4#10160]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

The last grind is this example fails when the `have` statement before it is removed.

```
structure PreInt where
  minuend : Nat
  subtrahend : Nat

/-- Definition 4.1.1 -/
instance PreInt.instSetoid : Setoid PreInt where
  r a b := a.minuend + b.subtrahend = b.minuend + a.subtrahend
  iseqv := {
    refl := by intro ⟨a, b⟩; grind
    symm := by intro ⟨a, b⟩ ⟨c, d⟩ h; grind
    trans := by intro ⟨ a,b ⟩ ⟨ c,d ⟩ ⟨ e,f ⟩ h1 h2; grind
  }

abbrev MyInt := Quotient PreInt.instSetoid

abbrev MyInt.formalDiff (a b : Nat) : MyInt := Quotient.mk PreInt.instSetoid ⟨ a, b ⟩

theorem MyInt.eq (a b c d : Nat) : formalDiff a b = formalDiff c d ↔ a + d = c + b :=
  ⟨ Quotient.exact, by intro h; exact Quotient.sound h ⟩

instance MyInt.instOfNat {n : Nat} : OfNat MyInt n where
  ofNat := formalDiff n 0

instance MyInt.instNatCast : NatCast MyInt where
  natCast n := formalDiff n 0

theorem MyInt.natCast_eq (n : Nat) : (n : MyInt) = formalDiff n 0 := rfl

theorem MyInt.natCast_inj (n m : Nat) :
  (n : MyInt) = (m : MyInt) ↔ n = m := by
  rw [natCast_eq, natCast_eq, eq]
  grind

@[grind]
theorem MyInt.eq_0_of_cast_eq_0 (n : Nat) (h : (n : MyInt) = 0) : n = 0 := by
  rw [show (0 : MyInt) = ((0 : Nat) : MyInt) by rfl] at h
  rwa [natCast_inj] at h

theorem MyInt.pos_iff_gt_0 {a : MyInt} : (∃ (n:Nat), n > 0 ∧ a = n) → a ≠ 0 := by
  intro ⟨ w, hw ⟩ h
  have := eq_0_of_cast_eq_0 -- grind fails when I remove this
  grind
```

### Context

This seems to happen in v23-rc2 (and Lean Nightly, on Lean Web) but not v22

### Steps to Reproduce

1. Paste the above snippet into Lean Web
2. Comment out the line that says "grind fails..."
3. Grind fails

**Expected behavior:** Grind does not fail

**Actual behavior:** Grind fails

### Versions

`4.24.0-nightly-2025-08-27`

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
